US07517875B2
4-tert-Butoxycarbonylamino-3-nitrobenzoic acid methyl ester (1.11 g, 3.75 mmol) was dissolved in ethyl acetate-methanol (1:1) (30 ml). Next, 10% palladium-carbon powder (200 mg, 5 mol %) was added to the aqueous solution under a nitrogen atmosphere, and the mixture was stirred overnight under a hydrogen atmosphere. The reaction mixture was filtered with celite, and the filtrate was concentrated under reduced pressure to obtain 3-amino-4-tert-butoxycarbonylaminobenzoic acid methyl ester. The compound was identified by LC-MS.

reactant | 4-tert-Butoxycarbonylamino-3-nitrobenzoic acid methyl ester | 3.75 mmol, 1.11 g | COC(C1=CC(=C(C=C1)NC(=O)OC(C)(C)C)[N+](=O)[O-])=O | C13H16N2O6
solvent | ethyl acetate methanol | 30 ml | C(C)(=O)OCC.CO
catalyst | palladium-carbon | 200 mg | [C].[Pd]
product | 3-amino-4-tert-butoxycarbonylaminobenzoic acid methyl ester | COC(C1=CC(=C(C=C1)NC(=O)OC(C)(C)C)N)=O | C13H18N2O4
